US06071921
Using an analogous procedure to that described for the starting material in Example 1, 4-(3-acetoxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline hydrochloride (400 mg) was reacted in the presence of catalytic potassium iodide with 3-chloromethylthiophene (Journal of the Chemical Society 1958, 4202) (168 mg) to give 4-(3-acetoxy-4-methylanilino)-6-methoxy-7-(3-thienylmethoxy)quinazoline (210 mg, 46%).

reactant | 4-(3-acetoxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline hydrochloride | 400 mg | Cl.C(C)(=O)OC=1C=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=CC1C
reactant | potassium iodide | [I-].[K+]
reactant | 3-chloromethylthiophene | ClCC1=CSC=C1 | C5H5ClS
product | 4-(3-acetoxy-4-methylanilino)-6-methoxy-7-(3-thienylmethoxy)quinazoline | 210 mg, 46% | C(C)(=O)OC=1C=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCC2=CSC=C2)C=CC1C | C23H21N3O4S
